US07615562B2
Step B: 3-[3-(2-Methylsulfanyl-pyrimidin-4-yl)-pyrrol-1-yl]-propionic acid methyl ester
2-Methylsulfanyl-4-(1H-pyrrol-3-yl)-pyrimidine (260 mg, 1.36 mmol) was added to a suspension of fat free sodium hydride (39 mg, 1.63 mmol) in 5 ml of THF. The mixture was heated to 50° C. for 20 minutes. Then, 3-bromo-propionic acid methyl ester (0.156 ml, 1.36 mmol) was added and the temperature was increased to 80° C. After 14 hours, the mixture was cooled, quenched with water and extracted with ether. The combined organic layers were washed with brine, dried over sodium sulfate and evaporated. The crude product was used without further purification. Yield: 302 mg (80%).

reactant | 2-Methylsulfanyl-4-(1H-pyrrol-3-yl)-pyrimidine | 1.36 mmol, 260 mg | CSC1=NC=CC(=N1)C1=CNC=C1 | C9H9N3S
reactant | sodium hydride | 1.63 mmol, 39 mg | [H-].[Na+]
reactant | 3-bromo-propionic acid methyl ester | 1.36 mmol, 0.156 ml | COC(CCBr)=O | C4H7BrO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[3-(2-Methylsulfanyl-pyrimidin-4-yl)-pyrrol-1-yl]-propionic acid methyl ester | COC(CCN1C=C(C=C1)C1=NC(=NC=C1)SC)=O | C13H15N3O2S
